US07666888B2
3-(1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperidin-2-yl)pyridine
To 5-(4-methylphenyl)isoxazole-4-carbonyl chloride (10 mg, 0.045 mmol) in dichloromethane (1 mL) was added 3-piperidin-2-ylpyridine (11 mg, 0.045 mmol, 1.0 eq), and the reaction mixture was stirred for 1 h. The solvent was removed, and the residue was purified by preparative reverse-phase HPLC to give the title compound. HRMS (ESI, pos. ion) m/z calcd for C21H21N3O2: 347.1634, found 347.1644.

reactant | 5-(4-methylphenyl)isoxazole-4-carbonyl chloride | 0.045 mmol, 10 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)Cl | C11H8ClNO2
reactant | 3-piperidin-2-ylpyridine | 0.045 mmol, 11 mg, 1.0 eq | N1C(CCCC1)C=1C=NC=CC1 | C10H14N2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-(1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}piperidin-2-yl)pyridine | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1C(CCCC1)C=1C=NC=CC1 | C21H21N3O2
